US08022222B2
Step B: Preparation of methyl 3-(6-(4-methylthiazol-2-ylamino)-4-(quinolin-5-yloxy)pyridin-3-ylthio)propanoate:
A flask was charged with tris(dibenzylideneacetone)dipalladium (0) (0.05539 g, 0.06049 mmol), 5-bromo-N-(4-methylthiazol-2-yl)-4-(quinolin-5-yloxy)pyridin-2-amine (0.500 g, 1.210 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene (0.05250 g, 0.09074 mmol), methyl 3-mercaptopropanoate (0.5360 ml, 4.839 mmol), and N-ethyl-N-isopropylpropan-2-anine (0.4215 ml, 2.420 mmol), and degassed dioxane (40 mL) was added. The reaction was stirred at 93° C. overnight. Water was added and the reaction was extracted with ethyl acetate. The organic layer was dried, filtered and concentrated. The residue was purified using silica gel column chromatography with 20-30-40-60-80% ethyl acetate in hexanes and then with ethyl acetate to give the desired product (0.469 g, 85% yield) as yellow solid. 1H NMR (CDCl3) δ 8.93 (m, 1H), 8.37 (d, 1H), 8.19 (m, 1H), 8.02 (dd, 1H), 7.66 (t, 1H), 7.36 (dd, 1H), 7.19 (d, 2H), 6.11 (s, 1H), 3.60 (s, 3H), 2.60 (t, 2H), 1.71 (s, 3H), 1.22 (t, 2H).

reactant | 5-bromo-N-(4-methylthiazol-2-yl)-4-(quinolin-5-yloxy)pyridin-2-amine | 1.210 mmol, 0.500 g | BrC=1C(=CC(=NC1)NC=1SC=C(N1)C)OC1=C2C=CC=NC2=CC=C1 | C18H13BrN4OS
reactant | methyl 3-mercaptopropanoate | 4.839 mmol, 0.5360 ml | SCCC(=O)OC | C4H8O2S
catalyst | tris(dibenzylideneacetone)dipalladium | 0.06049 mmol, 0.05539 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene | 0.09074 mmol, 0.05250 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-(6-(4-methylthiazol-2-ylamino)-4-(quinolin-5-yloxy)pyridin-3-ylthio)propanoate | 0.469 g, 85% yield | CC=1N=C(SC1)NC1=CC(=C(C=N1)SCCC(=O)OC)OC1=C2C=CC=NC2=CC=C1 | C22H20N4O3S2
